US07981903B2
A solution of 1-(1-methylethyl)-4-[4-(methyloxy)-3-nitrophenyl]piperazine (0.6 g, 2.15 mmol) in absolute ethanol (100 mL) was hydrogenated with 10% Pd/C (Lancaster) at 50 psi overnight. The catalyst was removed by vacuum filtration through a celite pad, rinsed with methanol, the filtrate was concentrated under reduced pressure, and the crude aniline was purified by chromatography on SiO2 (dichloromethane to 10% methanol/dichloromethane with 0.1% NH4OH) to provide 5-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline as a white solid (0.42 g, 80%). ESIMS (M+H)+=250.

reactant | 1-(1-methylethyl)-4-[4-(methyloxy)-3-nitrophenyl]piperazine | 2.15 mmol, 0.6 g | CC(C)N1CCN(CC1)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C14H21N3O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 5-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline | 0.42 g, 80% | CC(C)N1CCN(CC1)C=1C=CC(=C(N)C1)OC | C14H23N3O
